US06800637B2
{7-Nitro-8-[(E)-3-oxo-1-pentenyl]-2,3-dihydro-1,4-benzodioxin-2-yl}methyl 4-methylbenzenesulfonate
To a solution of 5.00 g (12.2 mmol) of [(2R)-8-formyl-7-nitro-2,3-dihydro-1,4-benzodioxin-2-yl]methyl 4-methylbenzenesulfonate in 200 mL of toluene was added 5.10 g (15.3 mmol) of 1-triphenylphosphorylidene-2-butanone. The mixture was stirred at room temperature under nitrogen for 5 hours, after which time the solvent was removed in vacuum and the crude residue was column chromatographed on silica gel with methylene chloride as eluant to give 5.0 g of the (R)-enantiomer of the title compound as a yellow solid (m.p. 114° C.).

reactant | [(2R)-8-formyl-7-nitro-2,3-dihydro-1,4-benzodioxin-2-yl]methyl 4-methylbenzenesulfonate | 12.2 mmol, 5.00 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC2=C(O1)C(=C(C=C2)[N+](=O)[O-])C=O | C17H15NO8S
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | {7-Nitro-8-[(E)-3-oxo-1-pentenyl]-2,3-dihydro-1,4-benzodioxin-2-yl}methyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCC1COC2=C(O1)C(=C(C=C2)[N+](=O)[O-])\C=C\C(CC)=O | C21H21NO8S
